US05672602
(S)-N-Benzyl-N-methyl-2-[N'-(t-butoxycarbonyl)-2-oxo-ethylamino]-3-(naphth-2-yl)-propionamide
Combine (S)-N-benzyl-N-methyl-2-[N'-(t-butoxycarbonyl)-allylamino]-3-(naphth-2-yl)-propionamide (3.34 g, 7.29 mmol), and pyridine (0.03 ml) in dichloromethane/methanol (66 mL/7 mL). Cool to -78° C. Pass ozonized oxygen through the solution until a persistent light blue color is obtained. Pass nitrogen through the solution until the blue color dissipates. Add dimethyl sulfide (12 mL). Allow the reaction mixture to warm to ambient temperature and stir for 16 hours. Concentrate in vacuo to obtain a residue. Dilute the residue with ethyl acetate and extract with water. Separate the layers, dry the organic layer over MgSO4, filter, and evaporate in vacuo. Chromatograph on silica gel eluting with 20% ethyl acetate/hexane to give the title compound: TLC Rf =0.70 (silica gel, 50% ethyl acetate/hexane).

reactant | (S)-N-benzyl-N-methyl-2-[N'-(t-butoxycarbonyl)-allylamino]-3-(naphth-2-yl)-propionamide | 7.29 mmol, 3.34 g | C(C1=CC=CC=C1)N(C([C@H](CC1=CC2=CC=CC=C2C=C1)N(C(=O)OC(C)(C)C)CC=C)=O)C | C29H34N2O3
reactant | pyridine | 0.03 ml | N1=CC=CC=C1 | C5H5N
reactant | oxygen | O=O | O2
reactant | dimethyl sulfide | 12 mL | CSC | C2H6S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane methanol | 66 mL | ClCCl.CO
product | (S)-N-Benzyl-N-methyl-2-[N'-(t-butoxycarbonyl)-2-oxo-ethylamino]-3-(naphth-2-yl)-propionamide | C(C1=CC=CC=C1)N(C([C@H](CC1=CC2=CC=CC=C2C=C1)N(C(=O)OC(C)(C)C)CC=O)=O)C | C28H32N2O4
